US09284323B2
A suspension of (S)-1-(1-chloro-3-methylnaphthalen-2-yl)ethane-1,2-diol (6.70 grams, 28.2 mmol) and CH2Cl2 (67 mL) was treated with pyridine (4.78 mL, 59.2 mmol) at 23° C. Trityl chloride (8.28 g, 29.6 mmol) was added and the reaction was stirred for 24 h. The reaction was washed with 1.0 M aq CuSO4 monohydrate (3×50 mL), H2O (2×50 mL), and brine (50 mL). The final organic layer was dried over Na2SO4, filtered, and concentrated. The residue was treated with benzene and purified by flash column chromatography (silica gel, 0 to 20% ethyl acetate/hexanes) to give (S)-1-(1-chloro-3-methylnaphthalen-2-yl)-2-(trityloxy)ethanol. 1H NMR (400 MHz, CDCl3) δ 8.22 (d, J=8.2 Hz, 1H), 7.69 (d, J=8.2 Hz, 1H), 7.53-7.44 (m, 2H), 7.51 (s, 1H), 7.43-7.40 (m, 6H), 7.30-7.20 (m, 9H), 5.93-5.77 (m, broad, 1H), 3.59 (dd, J=9.4, 9.0 Hz, 1H), 3.52 (dd, J=9.4, 5.0 Hz, 1H), 2.85 (d, broad, J=4.3 Hz, 1H), 2.52 (s, 3H).

reactant | (S)-1-(1-chloro-3-methylnaphthalen-2-yl)ethane-1,2-diol | 28.2 mmol, 6.70 grams | ClC1=C(C(=CC2=CC=CC=C12)C)[C@@H](CO)O | C13H13ClO2
reactant | pyridine | 59.2 mmol, 4.78 mL | N1=CC=CC=C1 | C5H5N
reactant | Trityl chloride | 29.6 mmol, 8.28 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | CH2Cl2 | 67 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-(1-chloro-3-methylnaphthalen-2-yl)-2-(trityloxy)ethanol | ClC1=C(C(=CC2=CC=CC=C12)C)[C@@H](COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O | C32H27ClO2
